US07511144B2
To a solution of 1.0 g (5.21 mmol) of 4-chloromethyl-2,6-dimethylpyridine hydrochloride and 1.1 g (6.25 mmol) of 4-methylsulfonylphenol in ethanol (3.5 mL) was added 3.5 mL (14.0 mmol) of 4 N aqueous sodium hydroxide solution, followed by heating under reflux for 90 minutes. After standing to cool, ethanol was evaporated under a reduced pressure. To the obtained residue, water was added and the precipitates were collected by filtration and then dried under a reduced pressure to obtain 707 mg (yield 46.6%) of 4-(4-methanesulfonylphenoxymethyl)-2,6-dimethylpyridine (VI-4) as a colorless crystal. Its physical property is shown below.

reactant | 4-chloromethyl-2,6-dimethylpyridine hydrochloride | 5.21 mmol, 1.0 g | Cl.ClCC1=CC(=NC(=C1)C)C
reactant | 4-methylsulfonylphenol | 6.25 mmol, 1.1 g | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | sodium hydroxide | 14.0 mmol, 4 N, 3.5 mL | [OH-].[Na+]
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
product | 4-(4-methanesulfonylphenoxymethyl)-2,6-dimethylpyridine | 707 mg, yield 46.6% | CS(=O)(=O)C1=CC=C(OCC2=CC(=NC(=C2)C)C)C=C1 | C15H17NO3S
